US08183272B2
(12a) 1-(2,3-Dihydro-1H-inden-2-ylmethyl)cyclopropanamine
By using 2,3-dihydro-1H-inden-2-yl acetonitrile (157 mg, 1.00 mmol) described in WO 1998/005651, ethyl magnesium bromide (3 M diethyl ether solution, 0.67 mL, 2.00 mmol), tetraisopropoxy titanium (0.33 mL, 1.10 mmol), and trifluoroborane-diethyl ether complex (0.25 mL, 2.00 mmol), the reaction was carried out in the same manner as the method described in J. Org. Chem. 2002, 67, 3965 to give the title compound as a white solid (124 mg, yield 66%).

reactant | 2,3-dihydro-1H-inden-2-yl acetonitrile | 1.00 mmol, 157 mg | C1C(CC2=CC=CC=C12)CC#N | C11H11N
reactant | ethyl magnesium bromide | 2.00 mmol, 3 M, 0.67 mL | C(C)[Mg]Br
catalyst | tetraisopropoxy titanium | 1.10 mmol, 0.33 mL | C(C)(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 1-(2,3-Dihydro-1H-inden-2-ylmethyl)cyclopropanamine | 124 mg, yield 66% | C1C(CC2=CC=CC=C12)CC1(CC1)N | C13H17N
